US08236963B2
A stirred suspension of crude (5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-cyanoacetic acid methyl ester, intermediate 1 (56.0 g, 0.21 mol) in methanol (750 ml) was treated, in portions, with potassium cyanide (13.8 g, 0.21 mol) followed by water (45 ml). The mixture was stirred at ambient temperature for 7 hours and the resultant black solution was left to stand overnight. The solvent was removed in vacuo, water (500 ml) was added and the mixture acidified by the addition of 2M hydrochloric acid [CAUTION: TRACES OF CYANIDE MAY STILL BE PRESENT!]. The mixture was extracted with dichloromethane (3×300 ml). The combined extracts were washed with water (2×300 ml) and dried (MgSO4). The solvent was removed in vacuo to give the crude (5-chloro-3-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)-cyanoacetic acid methyl ester as a pale-brown solid (53.3 g, 86%). This was a mixture of diastereomers, which was sufficiently pure by 1H NMR for subsequent reaction.

reactant | (5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-cyanoacetic acid methyl ester | COC(C(C#N)=C1C(NC2=CC=C(C=C12)Cl)=O)=O | C12H7ClN2O3
reactant | potassium cyanide | 0.21 mol, 13.8 g | [C-]#N.[K+]
reactant | water | 45 ml | O | H2O
solvent | methanol | 750 ml | CO | CH4O
product | (5-chloro-3-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)-cyanoacetic acid methyl ester | 53.3 g, 86% | COC(C(C#N)C1(C(NC2=CC=C(C=C12)Cl)=O)C#N)=O | C13H8ClN3O3
